### PR TITLE
Lemma 10.1.1

### PR DESCRIPTION
**Pull request by BoltonBailey**
~~Currently proved relative to `(4 * (1 - 2 ^ (-1 / 4 : ℝ)))⁻¹ ≤ (2 : ℝ)`~~

Ok proof is done now, though could still be cleaned up.

### CODE REVIEW

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 1]
```diff
@@ -18,10 +20,169 @@ variable (K) in
...
+      have : (⌊x - 5⌋₊ + 5) ≤ (x - 5 + 5) := by
+        simp only [sub_add_cancel]
+        have h05 : 0 ≤ x - 5 := by linarith
+        have := Nat.floor_le (α := ℝ) h05
+        linarith
+      have two_pos : 1 ≤ (2 : ℝ) := by linarith
+      exact rpow_le_rpow_of_exponent_le two_pos this
+    _ = 2 ^ x := by
+      congr
+      ring
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:57]:
```suggestion
theorem Real.two_mul_lt_two_pow (x : ℝ) (hx : 2 ≤ x) :
    (2 : ℝ) * x ≤ 2 ^ x := by
  calc
    _ ≤ (1 + (x - 1) * 1) * 2 := by linarith
    _ ≤ (1 + 1 : ℝ) ^ (x - 1) * 2 := by 
      gcongr
      apply one_add_mul_self_le_rpow_one_add (by norm_num) (by linarith)
    _ ≤ (2 : ℝ) ^ (x - 1) * (2 : ℝ) ^ (1 : ℝ) := by norm_num
    _ ≤ _ := by
      rw [← rpow_add (by positivity)]
      norm_num
```

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 2]
```diff
@@ -18,10 +20,169 @@ variable (K) in
...
+            norm_num
+        · positivity
+        norm_num
+      · norm_num
+    · norm_num
+      apply Real.rpow_lt_one_of_one_lt_of_neg
+      · simp
+      · linarith
+    · norm_num
+  norm_num
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:88]:
```suggestion
lemma geom_estimate_constant_le_two :
    (4 * (1 - 2 ^ (-1 / 4 : ℝ)))⁻¹ ≤ (2 : ℝ) := by
  have : (2 : ℝ) ^ (-1 / 4 : ℝ) ≤ 7 / 8 := by
    rw [neg_div, one_div, neg_eq_neg_one_mul, mul_comm, Real.rpow_mul (by norm_num),
      Real.rpow_neg_one, inv_le_comm₀ (by positivity) (by norm_num)]
    apply le_of_pow_le_pow_left₀ (n := 4) (by norm_num) (by positivity)
    conv_rhs => rw [← Real.rpow_natCast (n := 4), ← Real.rpow_mul (by norm_num)]
    norm_num
  calc
    _ ≤ ((4 : ℝ) * (1 - 7 / 8))⁻¹ := by gcongr
    _ ≤ _ := by norm_num
```

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 3]
```diff
@@ -18,10 +20,169 @@ variable (K) in
...
+
+
+
+theorem real_geometric_series_estimate {x : ℝ} (hx : 4 ≤ x) :
+    tsum (fun (n : ℕ) ↦ (2 : ℝ) ^ (-n / x)) ≤ 2 ^ x := by
```
Comment (fpvandoorn) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:93]: This proof currently compiles really slowly. Can you improve this by cleaning up this proof? Some suggestions: reduce the number of `linarith` calls, remove unneeded assumptions, use `let c := (4 * (1 - 2 ^ (-1 / 4 : ℝ)))⁻¹` to hide some of the complex expressions from `linarith`.

**Review by fpvandoorn — COMMENTED** [review]
Thanks. Please do some cleanup indeed!

**Comment by fpvandoorn** [comment]
Thanks!
